2167-10-18 07:39:00 Physician Resident Progress Note
Chief Complaint: Respiratory distress, fever
   24 Hour Events:
 PICC LINE - START [**2167-10-17**] 11:31 PM
 FEVER - 101.3
C - [**2167-10-18**] 06:00 AM
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Penicillins
   Hives;
   Sulfa (Sulfonamide Antibiotics)
   Hives;
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2167-10-18**] 06:00 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2167-10-18**] 12:16 AM
   Enoxaparin (Lovenox) - [**2167-10-18**] 02:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-10-18**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 38.5
C (101.3
   HR: 100 (90 - 114) bpm
   BP: 137/92(103) {120/52(69) - 146/92(103)} mmHg
   RR: 14 (14 - 38) insp/min
   SpO2: 94%
   Heart rhythm: MAT (Multifocal atrial tachycardia)
                  Total In:
                  120 mL
   PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    300 mL
                                                                    200 mL
   Urine:
                                                                    300 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -300 mL
                                                                    -80 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: NG tube
   Cardiovascular: Tachycardic, irregular
   Peripheral Vascular: (Right radial pulse: diminished), (Left radial
   pulse: diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bibasilar)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Ecchymotic RUE.  Erythema at staple line over R hip but c/d/i.
   Neurologic: Attentive, Responds to: Verbal stimuli, Oriented (to):
   self, [**Hospital3 **], "[**2157**]", Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   383 K/uL
   10.0 g/dL
   130 mg/dL
   1.0 mg/dL
   25 mEq/L
   5.1 mEq/L
   28 mg/dL
   113 mEq/L
   147 mEq/L
   31.0 %
   12.2 K/uL
        [image002.jpg]
                            [**2167-10-18**]  03:35 AM
   WBC
   12.2
   Hct
   31.0
   Plt
   383
   Cr
   1.0
   TropT
   0.08
   Glucose
   130
   Other labs: CK / CKMB / Troponin-T:161/6/0.08, ALT / AST:31/51, Alk
   Phos / T Bili:41/0.5, Differential-Neuts:92.8 %, Lymph:4.7 %, Mono:1.7
   %, Eos:0.5 %, Albumin:2.7 g/dL, LDH:415 IU/L, Ca++:7.7 mg/dL, Mg++:2.3
   mg/dL, PO4:4.3 mg/dL
   Imaging: CXR:  R PICC line.  Cardiomegaly.  Mild perihilar fullness,
   slightly worsened than [**10-16**].  L pleural effusion.
   .
   CTA chest/abd--Prelim:  No central PE but singular small PE at LLL ant
   basal segment branch point. Left pleural effusion & bibasal
   atelectasis.  Nodular consolidation and fluid in trachea and esophagus
   susp for aspiration pneumonitis.  No diverticulitis.
   .
   Right femur:  Expected postop appearance.  No subcutaneous air.
   Microbiology: BCx, UCx pending
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PULMONARY EMBOLISM (PE), ACUTE
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   ASSESSMENT AND PLAN: Ms. [**Known lastname 10607**] is a 60 yo F with CAD s/p IMI, CHF s/p
   AICD, SLE, scleroderma, severe pulmonary HTN, COPD on home O2, C.
   difficle colitis, recent admission for R hip fracture s/p ORIF
   complicated by urosepsis and respiratory failure who was discharged to
   rehab yesterday and returns for respiratory distress.
   # Respiratory distress:  Currently at baseline O2 requirements.  Likely
   aspiration event in the setting of pulmonary HTN and COPD.  She was
   also noted to have nodular consolidation and fluid in trachea and
   esophagus susp for aspiration pneumonitis.  Patient has severe
   pulmonary hypertension on sildenafil and bosenten.  CXR suggests mild
   pulmonary edema, likely worsened by tachycardia (driven by fever,
   pain).  CTA chest showed singular small PE at LLL ant basal segment
   branch point, left pleural effusion, & bibasal atelectasis.  I do not
   see a significant pulmonary infiltrate.
   - O2 by NC with goal O2 sat of 88-94%.
   - cont. pulmonary HTN treatment with sildenafil and viagra
   - rate control adequately with metoprolol
   - Lasix IV for goal -1L today
   - daily weights
   - lovenox at treatment doses
   - aspiration percautions
   # Fever:  In last 24 hours prior to discharge, Tmax was 99.6.  In last
   48 hours prior to discharge, Tmax was 102.1 on [**10-14**].  Leukocytosis
   stable from discharge.  She does does have c. diff and was found to
   have pan-sensitive Klebsiella/E. colic UTI on appropriate abx since
   [**10-9**].  Neg. U/A.  Repeat UCx pending.  She is intermittently tachypneic
   to 40s, but CT chest showed no sig. infiltrate.  [**Month (only) 51**] be from
   asipration.  Per Ortho, R hip does not appear infected.  There is
   erythema just around the incision over her R hip.  PICC line was placed
   yesterday and site appears benign.  Other considerations include drug
   fever.  She also has a PE but appears small.
   - monitor fever curve (note on standing tylenol for pain)
   - sputum culture
   - follow up urine, blood cultures (OSH # [**Telephone/Fax (1) 10809**])
   - cont po vanc for C. diff
   - hold off on Cipro as UTI has been adequately treated
   - low threshold to start treatment for hospital acquired aspiration
   pneumonia with vanc/zosyn if HD unstable, leukocytosis worsens.
   - US RUE to r/o thrombosis (on anticoagulation anyway)
   # Recent urosepsis:  On appropriate abx since [**10-9**].
   - hold on treatment for UTI
   # C. difficle colitis:  No evidence of megacolon.
   - serial abd exams
   - plan for prolonged PO vanco course for 2 weeks after last dose of abx
   THEN taper 125mg PO QID X 14 days, 125mg PO BID X 1, 125mg daily x 1
   week, 125mg QOD x 1 week, 125mg q3 days x 2 weeks.
   # MAT vs afib:  BP stable but HR suboptimally controlled.  Worsened by
   fever, PE, post-op pain.  In addition, at rehab she was only given 50
   metoprolol [**Hospital1 7**].
   - cont. metoprolol 100 mg [**Hospital1 7**] to improve filling time
   - control pain with standing tylenol, limit narcotics
   # Elevated troponin:  Likely demand ischemia.  No ischemic EKG changes.
   - trend CEs, serial EKGs
   - cont. ASA 81 mg (cannot tolerate higher doses), BB, statin
   - on lovenox for PE
   - Cardiology following, appreciate recs
   # Pulmonary HTN c/b R heart failure:  BNP [**Numeric Identifier 10810**].
   -gentle diuresis prn to decrease burden on RV
   -outpt regimen sildenafil, bosentan
   # R Hip Fracture: s/p R ORIF on [**2167-10-8**].
   - lovenox for anticoagulation
   - pain control with standing tylenol, oxycodone prn, and lidocaine
   patch
   - Ortho following, appreciate recs
   # Mental status:  Likely due to morphine in ED.  Was delirius last
   admission as well.
   - continue to monitor
   # CAD s/p PCI to LCx:
   - continue ASA 81 mg, statin, BB
   - holding plavix post-op as PCI was in [**2164**]
   # SLE
   -continue hydroxychloroquine
   # FEN: hold IVFs / replete lytes prn / NPO except meds
   # PPX: home PPI, lovenox, bowel regimen
   # ACCESS: PICC
   # CODE: FULL (confirmed)
   # CONTACT: [**Name (NI) 186**]/HCP [**Name (NI) **] [**Name (NI) 10607**] [**Telephone/Fax (1) 10608**] (cell); [**Telephone/Fax (1) 10609**]
   (home); Daughter [**First Name8 (NamePattern2) **] [**Known lastname 10607**] [**Telephone/Fax (1) 10610**]
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2167-10-17**] 11:31 PM
   18 Gauge - [**2167-10-17**] 11:33 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2167-10-18 09:39:00 Physician Attending Progress Note
Chief Complaint: hypoxemic resp distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2167-10-17**] 11:31 PM
 FEVER - 101.3
C - [**2167-10-18**] 06:00 AM
   Allergies:
   Penicillins
   Hives;
   Sulfa (Sulfonamide Antibiotics)
   Hives;
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2167-10-18**] 06:00 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2167-10-18**] 12:16 AM
   Enoxaparin (Lovenox) - [**2167-10-18**] 02:14 AM
   Other medications:
   Hydroxychloroquine, ASA, Sildenafil, PPI, Metoprolol, Lovenox, Bosentan
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-10-18**] 09:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 38.6
C (101.5
   HR: 102 (90 - 114) bpm
   BP: 143/59(79) {120/52(69) - 146/92(103)} mmHg
   RR: 22 (14 - 38) insp/min
   SpO2: 95%
   Heart rhythm: MAT (Multifocal atrial tachycardia)
                  Total In:
                  150 mL
   PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    300 mL
                                                                    300 mL
   Urine:
                                                                    300 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -300 mL
                                                                   -150 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Face tent
   SpO2: 95%
   ABG: ///25/
   Physical Examination
   Gen
   HEENT
   CV
   Chest
   Abd
   Ext
   Neuro
   Labs / Radiology
   10.0 g/dL
   383 K/uL
   130 mg/dL
   1.0 mg/dL
   25 mEq/L
   5.1 mEq/L
   28 mg/dL
   113 mEq/L
   147 mEq/L
   31.0 %
   12.2 K/uL
        [image002.jpg]
                            [**2167-10-18**]  03:35 AM
   WBC
   12.2
   Hct
   31.0
   Plt
   383
   Cr
   1.0
   TropT
   0.08
   Glucose
   130
   Other labs: CK / CKMB / Troponin-T:161/6/0.08, ALT / AST:31/51, Alk
   Phos / T Bili:41/0.5, Differential-Neuts:92.8 %, Lymph:4.7 %, Mono:1.7
   %, Eos:0.5 %, Albumin:2.7 g/dL, LDH:415 IU/L, Ca++:7.7 mg/dL, Mg++:2.3
   mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PULMONARY EMBOLISM (PE), ACUTE
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   1. Resp Distress: In setting of witnessed aspiration on top of known
   PAH and COPD. She is requiring more than usual O2 with sig desta so we
   will repeat CXR.
   2. Fevers: hx of C diff and still on [o vanco.  Klebs UTI which has
   been treated. We will pan cx from PICC
 it is new- check sputum and
   urine. Will continue vanco Cefipime x 48 hrs while monitior cx.
   Hip wound seen by Prtho and felt to be stable and without evidence of
   infection
   3. PAH: continue bosentan  and sildenafil
   4. Neuro: waxing and [**Doctor Last Name 533**] mental status -
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2167-10-17**] 11:31 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   Communication:
   Code status: Full code
   Disposition :ICU
   Total time spent:

2167-10-18 12:11:00 Physician Attending Progress Note
Chief Complaint: hypoxemic resp distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2167-10-17**] 11:31 PM
 FEVER - 101.3
C - [**2167-10-18**] 06:00 AM
   Allergies:
   Penicillins
   Hives;
   Sulfa (Sulfonamide Antibiotics)
   Hives;
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2167-10-18**] 06:00 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2167-10-18**] 12:16 AM
   Enoxaparin (Lovenox) - [**2167-10-18**] 02:14 AM
   Other medications:
   Hydroxychloroquine, ASA, Sildenafil, PPI, Metoprolol, Lovenox, Bosentan
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-10-18**] 09:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 38.6
C (101.5
   HR: 102 (90 - 114) bpm
   BP: 143/59(79) {120/52(69) - 146/92(103)} mmHg
   RR: 22 (14 - 38) insp/min
   SpO2: 95%
   Heart rhythm: MAT (Multifocal atrial tachycardia)
                  Total In:
                  150 mL
   PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    300 mL
                                                                    300 mL
   Urine:
                                                                    300 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -300 mL
                                                                   -150 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Face tent
   SpO2: 95%
   ABG: ///25/
   Physical Examination
   Gen: sitting in bed, awake but only intermittently answering ?S
   HEENT: op clear, 3 mm left and 2 mm right pupil reactive
   CV: irreg
   Chest: coarse BS bases
   Abd: obese soft NT
   Ext : 3+ edema
   Neuro: awake, occ answering directed s, seems to have trouble attending
   with focus, moving all ext
   Labs / Radiology
   10.0 g/dL
   383 K/uL
   130 mg/dL
   1.0 mg/dL
   25 mEq/L
   5.1 mEq/L
   28 mg/dL
   113 mEq/L
   147 mEq/L
   31.0 %
   12.2 K/uL
        [image002.jpg]
                            [**2167-10-18**]  03:35 AM
   WBC
   12.2
   Hct
   31.0
   Plt
   383
   Cr
   1.0
   TropT
   0.08
   Glucose
   130
   Other labs: CK / CKMB / Troponin-T:161/6/0.08, ALT / AST:31/51, Alk
   Phos / T Bili:41/0.5, Differential-Neuts:92.8 %, Lymph:4.7 %, Mono:1.7
   %, Eos:0.5 %, Albumin:2.7 g/dL, LDH:415 IU/L, Ca++:7.7 mg/dL, Mg++:2.3
   mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PULMONARY EMBOLISM (PE), ACUTE
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   1. Resp Distress: In setting of witnessed aspiration on top of known
   PAH and COPD. She is requiring more than usual O2 with sig desat so we
   will repeat CXR to look for evolution of aspiration or pulm edema
   continue ABX and gentle diuresis. O2 to maintain sats at 92-94
 not
   currently in need of NIPPV but will monitor
   2. Small PE seen on prelim read of CTA
 does not seem large enough to
   explain resp distress Switch to treatment dose Lovenox follow up CTA
   Check Echo in AM. Check LUE US with PICC as is more swollen.
   2. Fevers: hx of C diff and still on Vanco.  Klebs UTI which has been
   treated. We will pan cx from PICC
 it is new- check sputum and urine.
   Will continue vanco Cefipime x 48 hrs while monitior cx.
   Hip wound seen by ortho and felt to be stable and without evidence of
   infection
   3. PAH: continue bosentan  and sildenafil
   4. Neuro: waxing and [**Doctor Last Name 533**] mental status - ? delirium, fevers, if +
   clots may need head CT
 given PAH could she have R to L shunt and CNS
   events?
   Remaining issues as per Housestaff
   ICU Care
   Nutrition: tube feeds, asp in swallow study yesterday at rehab
   Glycemic Control:
   Lines:
   PICC Line - [**2167-10-17**] 11:31 PM
   Prophylaxis:
   DVT: lovenox
   Stress ulcer: PPI
   Communication:  with pt, try to reach husband this afternoon.
   Code status: Full code
   Disposition :ICU
   Total time spent: 40

2167-10-19 06:51:00 Physician Resident Progress Note
Chief Complaint: respiratory distress , aspiration pneumonitis, PE
   24 Hour Events:
 ULTRASOUND - At [**2167-10-18**] 10:28 AM
   RT ARM
   Negative for RUE DVT.
 FEVER - 101.5
C - [**2167-10-18**] 08:00 AM
   Allergies:
   Penicillins
   Hives;
   Sulfa (Sulfonamide Antibiotics)
   Hives;
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2167-10-18**] 03:30 PM
   Vancomycin - [**2167-10-19**] 06:00 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2167-10-19**] 12:00 AM
   Enoxaparin (Lovenox) - [**2167-10-19**] 02:11 AM
   Other medications:
   Changes to medical and family history: n/a
   Review of systems is unchanged from admission except as noted below
   Review of systems: +cough with yellow sputum, no fever, chills, chest
   pain, palpitations, shortness of breath, abd pain, diarrhea
   Flowsheet Data as of  [**2167-10-19**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 37.2
C (99
   HR: 86 (77 - 105) bpm
   BP: 128/55(72) {103/47(62) - 145/85(91)} mmHg
   RR: 23 (19 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,131 mL
                                                                    400 mL
   PO:
             TF:
                                                                     66 mL
                                                                    162 mL
   IVF:
                                                                    565 mL
                                                                     68 mL
   Blood products:
   Total out:
                                                                    920 mL
                                                                    190 mL
   Urine:
                                                                    920 mL
                                                                    190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    211 mL
                                                                    211 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 98%
   VBG 1233 PM on [**10-18**] -- 7.35/49/41/28
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   431 K/uL
   9.3 g/dL
   116 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.1 mEq/L
   34 mg/dL
   115 mEq/L
   148 mEq/L
   28.1 %
   13.1 K/uL
        [image002.jpg]
                            [**2167-10-18**]  03:35 AM
                            [**2167-10-18**]  11:53 AM
                            [**2167-10-19**]  03:13 AM
   WBC
   12.2
   13.1
   Hct
   31.0
   28.1
   Plt
   383
   431
   Cr
   1.0
   0.9
   TropT
   0.08
   0.07
   Glucose
   130
   116
   Other labs: CK / CKMB / Troponin-T:164/5/0.07, ALT / AST:31/51, Alk
   Phos / T Bili:41/0.5, Differential-Neuts:92.8 %, Lymph:4.7 %, Mono:1.7
   %, Eos:0.5 %, Albumin:2.7 g/dL, LDH:415 IU/L, Ca++:7.9 mg/dL, Mg++:2.4
   mg/dL, PO4:3.9 mg/dL
   Imaging: [**10-18**] Doppler U/S
   IMPRESSION: No son[**Name (NI) 351**] evidence of right upper extremity DVT.
   Non-visualization of one of the two paired brachial veins, which cannot
   be
   evaluated for DVT, although there are no findings to suggest DVT.
   Microbiology: [**10-17**] BCx NGTD
   Assessment and Plan
   ASSESSMENT AND PLAN: Ms. [**Known lastname 10607**] is a 60 yo F with CAD s/p IMI, CHF s/p
   AICD, SLE, scleroderma, severe pulmonary HTN, COPD on home O2, C.
   difficle colitis, recent admission for R hip fracture s/p ORIF
   complicated by urosepsis and respiratory failure who was discharged to
   rehab yesterday and returns for respiratory distress.
   # Respiratory distress:  Currently at baseline O2 requirements.  Likely
   aspiration event in the setting of pulmonary HTN and COPD.  She was
   also noted to have nodular consolidation and fluid in trachea and
   esophagus susp for aspiration pneumonitis.  Patient has severe
   pulmonary hypertension on sildenafil and bosenten.  CXR suggests mild
   pulmonary edema, likely worsened by tachycardia (driven by fever,
   pain).  CTA chest showed singular small PE at LLL ant basal segment
   branch point, left pleural effusion, & bibasal atelectasis.  I do not
   see a significant pulmonary infiltrate.
   - O2 by NC with goal O2 sat of 88-94%.
   - cont. pulmonary HTN treatment with sildenafil and viagra
   - rate control adequately with metoprolol
   - Lasix IV for goal -1L today
   - daily weights
   - repeat ECHO
   - lovenox at treatment doses
   - aspiration percautions
   # Fever:  In last 24 hours prior to discharge, Tmax was 99.6.  In last
   48 hours prior to discharge, Tmax was 102.1 on [**10-14**].  Leukocytosis
   stable from discharge.  She does does have c. diff and was found to
   have pan-sensitive Klebsiella/E. colic UTI on appropriate abx since
   [**10-9**].  Neg. U/A.  Repeat UCx pending.  She is intermittently tachypneic
   to 40s, but CT chest showed no sig. infiltrate.  [**Month (only) 51**] be from
   asipration.  Per Ortho, R hip does not appear infected.  There is
   erythema just around the incision over her R hip.  PICC line was placed
   yesterday and site appears benign.  Other considerations include drug
   fever.  She also has a PE but appears small.
   - monitor fever curve (note on standing tylenol for pain)
   - sputum culture
   - follow up urine, blood cultures (OSH # [**Telephone/Fax (1) 10809**])
   - cont po vanc for C. diff
   - vanc/cefepime pending 48 hours of negative culture data
   - US RUE to r/o thrombosis (on anticoagulation anyway)
   # C. difficle colitis:  No evidence of megacolon.
   - serial abd exams
   - plan for prolonged PO vanco course for 2 weeks after last dose of abx
   THEN taper 125mg PO QID X 14 days, 125mg PO BID X 1, 125mg daily x 1
   week, 125mg QOD x 1 week, 125mg q3 days x 2 weeks.
   # MAT vs afib:  BP stable but HR suboptimally controlled.  Worsened by
   fever, PE, post-op pain.  In addition, at rehab she was only given 50
   metoprolol [**Hospital1 7**].
   - cont. metoprolol 100 mg [**Hospital1 7**] to improve filling time
   - control pain with standing tylenol, limit narcotics
   # Elevated troponin:  Likely demand ischemia.  No sig. ischemic EKG
   changes.
   - trend CEs, serial EKGs
   - cont. ASA 81 mg (cannot tolerate higher doses), BB, statin
   - on lovenox for PE
   # Pulmonary HTN c/b R heart failure:  BNP [**Numeric Identifier 10810**].
   -gentle diuresis prn to decrease burden on RV
   -outpt regimen sildenafil, bosentan
   # R Hip Fracture: s/p R ORIF on [**2167-10-8**].
   - lovenox for anticoagulation
   - pain control with standing tylenol, oxycodone prn, and lidocaine
   patch
   - Ortho following, appreciate recs
   # Mental status:  Likely due to morphine in ED.  Was delirius last
   admission as well.
   - continue to monitor
   - check VBG (unable to obtain ABG)
   - consider repeat CT head
   # CAD s/p PCI to LCx:
   - continue ASA 81 mg, statin, BB
   - holding plavix post-op as PCI was in [**2164**]
   # SLE
   -continue hydroxychloroquine
   # FEN: hold IVFs / replete lytes prn / NPO except meds
   # PPX: home PPI, lovenox, bowel regimen
   # ACCESS: PICC
   # CODE: FULL (confirmed)
   # CONTACT: [**Name (NI) 186**]/HCP [**Name (NI) **] [**Name (NI) 10607**] [**Telephone/Fax (1) 10608**] (cell); [**Telephone/Fax (1) 10609**]
   (home); Daughter [**First Name8 (NamePattern2) **] [**Known lastname 10607**] [**Telephone/Fax (1) 10610**]
   # DISPO: ICU
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2167-10-18**] 06:27 PM 30 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2167-10-17**] 11:31 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2167-10-20 07:23:00 Physician Resident Progress Note
Chief Complaint: Aspiration pneumonitis
   24 Hour Events:
   -hematuria via foley - monitoring
   -vanco level 40 wrote to hold PM dose (given accidentally) as well as
   AM dose with repeat level in AM
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   Hives;
   Sulfa (Sulfonamide Antibiotics)
   Hives;
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2167-10-19**] 04:03 PM
   Vancomycin - [**2167-10-20**] 06:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2167-10-19**] 08:00 PM
   Lansoprazole (Prevacid) - [**2167-10-20**] 12:00 AM
   Enoxaparin (Lovenox) - [**2167-10-20**] 02:00 AM
   Changes to medical and family history: n/a
   Review of systems is unchanged from admission except as noted below
   Review of systems: Denies chest pain, shortness of breath, abd pain,
   nausea
   Flowsheet Data as of  [**2167-10-20**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.3
C (97.3
   HR: 84 (74 - 94) bpm
   BP: 122/50(67) {91/28(49) - 123/61(86)} mmHg
   RR: 20 (16 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  2,028 mL
                                                                    563 mL
   PO:
             TF:
                                                                    805 mL
                                                                    290 mL
   IVF:
                                                                    694 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                  2,660 mL
                                                                    435 mL
   Urine:
                                                                  2,660 mL
                                                                    435 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -632 mL
                                                                    128 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 97%
   ABG: ///29/
   Physical Examination
   General Appearance: Appears well, resp non-labored
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: NG tube
   Cardiovascular: reg rate no murmur
   Peripheral Vascular: (Right radial pulse: diminished), (Left radial
   pulse: diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bibasilar)
   Abdominal: Soft, Non-distended, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Ecchymotic RUE.  Erythema at staple line over R hip but c/d/i.
   Neurologic: Awake, alert, conversing appropriately, oriented to person
   only
   Labs / Radiology
   423 K/uL
   9.4 g/dL
   96 mg/dL
   0.9 mg/dL
   29 mEq/L
   3.9 mEq/L
   39 mg/dL
   113 mEq/L
   149 mEq/L
   30.0 %
   12.3 K/uL
        [image002.jpg]
                            [**2167-10-18**]  03:35 AM
                            [**2167-10-18**]  11:53 AM
                            [**2167-10-19**]  03:13 AM
                            [**2167-10-19**]  03:39 PM
                            [**2167-10-20**]  02:58 AM
   WBC
   12.2
   13.1
   14.6
   12.3
   Hct
   31.0
   28.1
   29.7
   30.0
   Plt
   383
   431
   453
   423
   Cr
   1.0
   0.9
   0.9
   0.9
   TropT
   0.08
   0.07
   Glucose
   130
   116
   100
   96
   Other labs: PT / PTT / INR:14.2/34.0/1.2, CK / CKMB /
   Troponin-T:164/5/0.07, ALT / AST:31/51, Alk Phos / T Bili:41/0.5,
   Differential-Neuts:92.8 %, Lymph:4.7 %, Mono:1.7 %, Eos:0.5 %,
   Albumin:2.7 g/dL, LDH:415 IU/L, Ca++:8.0 mg/dL, Mg++:2.3 mg/dL, PO4:3.3
   mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN: 60F with CAD s/p IMI & PCI [**2164**], severe pulmonary
   HTN c/b R heart failure, COPD on home O2, C. difficile colitis, recent
   admission for R hip fracture s/p ORIF complicated by urosepsis and
   respiratory failure requiring mechanical ventilation readmitted for
   respiratory distress in the setting of aspiration pneumonitis.
   #Respiratory distress:  Presently at baseline oxygenation;
   decompensation most attributable to aspiration pneumonitis in a
   background of poor substrate; not clearly a superimposed bacterial
   pneumonia; CTA chest showed subsegmental PE but unclear chronicity and
   degree of contribution to current clinical status
   - O2 by NC/FT with goal sat of >88-90% (on 2L at baseline)
   - cont broad-spectrum abx pending negative blood cx from rehab
   - therapeutic anticoagulation with lovenox
   - bolus diuresis for goal -500 cc  today
   - cont. pulmonary HTN treatment with sildenafil and viagra
   - implement speech/swallow recs (OMR [**10-15**])
   - aspiration precautions
   .
   #Hypernatremia
   -free H20 boluses
   .
   #UTI
 [**10-9**] urine Cx with pan-[**Last Name (un) 270**] E. Coli/Klebsiella, plan to continue
   cipro through [**10-19**] (7 day course)
   -completed a course for UTI by virtue of treating with cefepime, as
   above
   .
   #C. dificile colitis:  Abd benign w/o evidence of megacolon on CT
   -cont po vancomycin (125 QID through [**11-2**], followed by 125 mg daily x 1
   week, then 125 mg every other day x 1 week, then 125 mg every 3 days
   for 2 weeks, presuming no prolongation of other ABX course)
   -serial abd exams
   #Atrial tachycardia:  HR remains suboptimally controlled, tachycardia
   likely exacerbated by adrenergic surge in the setting of aspiration +/-
   PE and/or infection
   - cont. metoprolol, uptitrate to achieve goal HR 65-70 to optimize
   filling time (although ideally would leave BP room for diuresis)
   - diuresis, as above
   #Elevated troponin
 trending down; most attributable to
   subendocardial/demand ischemia in the setting of aforementioned events
   given that CKMB WNL, however does notably have h/o CAD s/p PCI
   - ASA 81 mg (cannot tolerate higher doses per OMR), BB, statin
   - systemic anticoagulation with lovenox for PE
   # Pulmonary HTN c/b R heart failure
   -gentle diuresis prn to decrease burden on RV
   -outpt regimen sildenafil, bosentan
   # R Hip Fracture: s/p R ORIF on [**2167-10-8**]
   - lovenox for anticoagulation
   - pain control with standing tylenol, oxycodone prn, and lidocaine
   patch
   - ortho following, appreciate recs
   - PT c/s
   # SLE
   -continue hydroxychloroquine
   #FEN: replete lytes/strict NPO/TF
   #PPX: PPI, lovenox, bowel regimen
   #ACCESS: PICC, PIV
   #CODE: FULL (confirmed)
   #CONTACT: [**Name (NI) 186**]/HCP [**Name (NI) **] [**Name (NI) 10607**] [**Telephone/Fax (1) 10608**] (cell); [**Telephone/Fax (1) 10609**]
   (home); Daughter [**First Name8 (NamePattern2) **] [**Known lastname 10607**] [**Telephone/Fax (1) 10610**]
   #DISPO: Call out to floor
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2167-10-20**] 02:04 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2167-10-17**] 11:31 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed
   Code status: Full code
   Disposition:Transfer to floor